US06054457
To a mixture of 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-carboxypent-1-yl]oxy-4-methylphenyl]benzamide (250 mg), 2-dimethylaminoethyl (99 mg) and 4-dimethylaminopyridine (36 mg) in dichloromethane (10 ml) was added N-ethyl-N'-(3-dimethylaminoprop-1-yl)carbodiimide hydrochloride (71 mg) at 0° C. and stirred at the same temperature for 7 hours. The mixture was diluted with chloroform (20 ml) and the solution was washed with water (20 ml×2) and brine. The solution was dried over magnesium sulfate and the solvent was removed under reduced pressure. This residue was purified by silica gel column chromatography (SiO2 30 g, 1-10% methanol in chloroform) to give 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(2-dimethylaminoeth-1-yl)oxycarbonylpent-1-yl]oxy-4-methylphenyl]benzamide (238 mg).

reactant | 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-carboxypent-1-yl]oxy-4-methylphenyl]benzamide | 250 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)O)C)C=C2)OC)C=CC=C1 | C37H47N3O9
reactant | N-ethyl-N'-(3-dimethylaminoprop-1-yl)carbodiimide hydrochloride | 71 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 36 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(3-tert-butoxycarbonylaminoprop-1-yl)oxybenzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(2-dimethylaminoeth-1-yl)oxycarbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 238 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)OCCN(C)C)C)C=C2)OC)C=CC=C1 | C41H56N4O9
